US04336378
A mixture of 24.8 g. (0.088 mole) of 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-(dimethylaminomethyl)-indole and 23 g. (0.47 mole) of sodium cyanide in 175 ml. ethanol and 50 ml. water are refluxed for 80 hours. The mixture is then cooled and poured onto water, stirred for 1/2 hour and filtered to yield 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indole acetamide; m.p. 194° to 195° C. The filtrate, which contains the sodium salt of 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indole acetic acid is evaporated to remove ethanol and acidified with cold 12 N hydrochloric acid and the precipitate filtered to give 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indole acetic acid; m.p. 194° to 197° C.

reactant | 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-(dimethylaminomethyl)-indole | 0.088 mole | C(C)C1=NOC(=C1C=1NC2=CC=CC=C2C1CN(C)C)C | C17H21N3O
reactant | sodium cyanide | 0.47 mole | [C-]#N.[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indole acetamide | C(C)C1=NOC(=C1C=1NC2=CC=CC=C2C1CC(=O)N)C | C16H17N3O2
